US07786104B2
10.2 2-(3-Hydroxyazetidin-1-yl)-5-aminopyridine (Compound Ve)
The process is carried out according to the method described in step 5.2, using 5.5 g (28.18 mmol) of 2-(3-hydroxyazetidin-1-yl)-5-nitropyridine, prepared in step 10.1, and 0.5 g of 10% palladium-on-charcoal. 4.5 g of the expected product are thus obtained in the form of violet crystals.

reactant | 2-(3-hydroxyazetidin-1-yl)-5-nitropyridine | 28.18 mmol, 5.5 g | OC1CN(C1)C1=NC=C(C=C1)[N+](=O)[O-] | C8H9N3O3
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | 2-(3-Hydroxyazetidin-1-yl)-5-aminopyridine | 4.5 g | OC1CN(C1)C1=NC=C(C=C1)N | C8H11N3O
